US09079861B2
A mixture of tert-butyl (S)-1-(4-bromophenyl)ethyl(3-((R)-1,1-dimethylethylsulfinamido)-5-methyl-3-phenylhex-5-enyl)carbamate (6.5 g, 0.011 mol) in HCl/dioxane (70 mL) was stirred for 1 hour at 0° C. The mixture was concentrated to give the residue, which was treated with satd aq Na2CO3. The resulting mixture was extracted with EtOAc, and the combined organic layer was concentrated to afford crude N1—((S)-1-(4-bromophenyl)ethyl)-5-methyl-3-phenylhex-5-ene-1,3-diamine (2.97 g, 70%), which was used for the next step without purification.

reactant | tert-butyl (S)-1-(4-bromophenyl)ethyl(3-((R)-1,1-dimethylethylsulfinamido)-5-methyl-3-phenylhex-5-enyl)carbamate | 0.011 mol, 6.5 g | BrC1=CC=C(C=C1)[C@H](C)N(C(OC(C)(C)C)=O)CCC(CC(=C)C)(C1=CC=CC=C1)N[S@](=O)C(C)(C)C | C30H43BrN2O3S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | HCl dioxane | 70 mL | Cl.O1CCOCC1
product | N1—((S)-1-(4-bromophenyl)ethyl)-5-methyl-3-phenylhex-5-ene-1,3-diamine | 2.97 g, 70% | BrC1=CC=C(C=C1)[C@H](C)NCCC(CC(=C)C)(N)C1=CC=CC=C1 | C21H27BrN2
